US06514964B1
Step C: 3-{[(2-bromo-5-nitrophenyl)methyl]amino}propan-1-ol
To a stirring solution of 2-bromo-5-nitrobenzaldehyde (1 eq) in methylene chloride (0.1 M) at room temperature was added 3-amino-1-propanol (2 eq). After stirring for 4 hr, sodium triacetoxyborohydride (2 eq) and acetic acid (5 eq) was added. The reaction mixture was stirred for 3 hr and carefully quenched with methanol. The organic phase was washed with saturated sodium bicarbonate and brine. The organic phase was dried over anhydrous sodium sulfate, filtered, concentrated in vacuo and purified by flash chromatography (10% EtOAc/Hexane). EI-MS m/z 289 (M+H)+.

reactant | 2-bromo-5-nitrobenzaldehyde | 1 eq | BrC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | 3-amino-1-propanol | 2 eq | NCCCO | C3H9NO
reactant | sodium triacetoxyborohydride | 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 5 eq | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 0.1 M | C(Cl)Cl | CH2Cl2
product | 3-{[(2-bromo-5-nitrophenyl)methyl]amino}propan-1-ol | BrC1=C(C=C(C=C1)[N+](=O)[O-])CNCCCO | C10H13BrN2O3
